US04408057
To 3.5 g (0.014 mole) of 4-(2-thienyl)-1-indanyl acetate was added a solution of 1.1 g (0.019 mole) of potassium hydroxide in 19.5 mL of water and 39 mL of ethanol. The reaction mixture was stirred for three hours at 60°-70° C., then for 16 hours at ambient temperature. The reaction mixture was concentrated under reduced pressure to give an oil residue. The oil was slurried in 75 mL of water for one hour, causing the oil to solidify. The solid was washed with water, air dried, then recrystallized from toluene to give, in three crops, 2.4 g of 4-(2-thienyl)-1-indanol, m.p. 101°-103.5° C.

reactant | 4-(2-thienyl)-1-indanyl acetate | 0.014 mole, 3.5 g | C(C)(=O)OC1CCC2=C(C=CC=C12)C=1SC=CC1 | C15H14O2S
reactant | potassium hydroxide | 0.019 mole, 1.1 g | [OH-].[K+]
solvent | water | 19.5 mL | O | H2O
solvent | ethanol | 39 mL | C(C)O | C2H6O
solvent | water | 75 mL | O | H2O
product | 4-(2-thienyl)-1-indanol | 2.4 g | S1C(=CC=C1)C1=C2CCC(C2=CC=C1)O | C13H12OS
